US05864039
5-(4-tert-Butoxycarbonylaminomethylpiperidin-1-yl)pentylamine (1.1 g) was dissolved in methylene chloride (20 ml) and a solution of n-propyl isocyanate (0.34 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 1 hr, and the reaction mixture was concentrated under reduced pressure to give 4-tert-butoxycarbonylaminomethyl-1-(5-(3-n-propylureido)pentyl)piperidine.

reactant | 5-(4-tert-Butoxycarbonylaminomethylpiperidin-1-yl)pentylamine | 1.1 g | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCCCCN | C16H33N3O2
reactant | n-propyl isocyanate | 0.34 ml | C(CC)N=C=O | C4H7NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-tert-butoxycarbonylaminomethyl-1-(5-(3-n-propylureido)pentyl)piperidine | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCCCCNC(=O)NCCC | C20H40N4O3
